US07772226B2
(a) t-Butyl 4-[7-(2-butynyl)-2-(2-carbamoylphenoxy)-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate
200 mg of t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 2.0 ml of 1-methyl-2-pyrrolidone, and 85 mg of salicylamide and 129 mg of potassium carbonate were added thereto. The mixture was stirred at 100° C. for 2 hours. After the reaction mixture had been cooled to room temperature, 5.0 ml of water was added thereto. After the mixture had been stirred at room temperature for 1 hour, the white precipitate was collected by filtration. The resulting white solid was washed with water and ether to give of 221 mg of the title compound (89%).

reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 200 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C19H25ClN6O3
reactant | salicylamide | 85 mg | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | potassium carbonate | 129 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5.0 ml | O | H2O
solvent | 1-methyl-2-pyrrolidone | 2.0 ml | CN1C(CCC1)=O | C5H9NO
product | t-Butyl 4-[7-(2-butynyl)-2-(2-carbamoylphenoxy)-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 221 mg, 89% | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)OC1=C(C=CC=C1)C(N)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H31N7O5
